US06258812B1
1-(4-Acetaminoanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.511 g (2 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine, 0.901 g (6 mmol) 4-aminoacetanilide and 5 ml 1-butanol is heated for 3 h at 110° C. The reaction mixture is then evaporated under vacuum, the crystalline residue is taken up in a mixture of 20 ml dichloromethane and 10 ml 20% aqueous potassium carbonate solution while stirring, then filtered and the filter residue washed with water and dichloromethane. After recrystallization from dichloromethane/methanol and drying under HV (8 h, 1 00° C.), title compound is obtained with a methanol content of 1.27%;

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 2 mmol, 0.511 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-aminoacetanilide | 6 mmol, 0.901 g | CC(=O)NC1=CC=C(C=C1)N | C8H10N2O
solvent | 1-butanol | 5 ml | C(CCC)O | C4H10O
product | 1-(4-Acetaminoanilino)-4-(4-pyridylmethyl)phthalazine | N(C(=O)C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C22H19N5O
